US07790709B2
Preparation of (E)-(7-{2-[Methyl-(1-methyl-1H-indol-2-ylmethyl)carbamoyl]vinyl}-2-oxo-1,2,3,5-tetrahydro-pyrido[2,3-e][1,4]diazepin-4-yl)acetic acid ethyl ester hydrochloride
According to the procedure of Example 1, except substituting methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-(4-ethoxycarbonylmethyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.22 g, 56%) was prepared as a yellow powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.53-10.54 (m, 1H), 8.56-8.59 (m, 1H), 8.09-8.16 (m, 1H), 7.28-7.61 (m, 4H), 7.10-7.15 (m, 1H), 6.99-7.04 (m, 1H), 6.19-6.42 (m, 1H), 4.86-5.06 (m, 2H), 4.00-4.14 (m, 5H), 3.62-3.72 (m, 7H), 2.99-3.12 (m, 3H), 1.12-1.20 (m, 3H); MS (ESI) m/e 476 (M+H)+.

reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-(4-ethoxycarbonylmethyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.C(C)OC(=O)CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-(7-{2-[Methyl-(1-methyl-1H-indol-2-ylmethyl)carbamoyl]vinyl}-2-oxo-1,2,3,5-tetrahydro-pyrido[2,3-e][1,4]diazepin-4-yl)acetic acid ethyl ester hydrochloride | 0.22 g, 56% | Cl.C(C)OC(CN1CC(NC2=C(C1)C=C(C=N2)\C=C\C(N(CC=2N(C1=CC=CC=C1C2)C)C)=O)=O)=O | InChI=1S/C26H29N5O4.ClH/c1-4-35-25(34)17-31-14-20-11-18(13-27-26(20)28-23(32)16-31)9-10-24(33)29(2)15-21-12-19-7-5-6-8-22(19)30(21)3;/h5-13H,4,14-17H2,1-3H3,(H,27,28,32);1H/b10-9+;
